US07981914B2
3-Iodo-5-nitro-benzoic acid (10.0 g, 34 mmol) was dissolved in 17.5 mL warm EtOH. Toluene (17.5 mL) was added, followed by 2-methoxy-phenyl-boronic acid (5.7 g), Palladium tetra(triphenylphosphine) (1.26 g) and aqueous Cs2CO3 solution (12.23 g in 12.5 mL H2O). The reaction mixture was stirred under Argon atmosphere at 130° C. for 18 hours, then cooled to room temperature. Solvent was removed under reduced pressure, and the residue was partitioned between aqueous 1N HCl and EtOAc. The combined organic layers were washed with water, dried over Na2SO4, filtered and concentrated under reduced pressure. The resulting solid residue was added to a mixture of methylene chloride (50 mL)and hexanes (10 mL) and stirred for two hours. The mixture was filtered, and the resulting white solid was washed with cold methylene chloride/hexanes (5:1) and dried to give 8.62 g of 2′-methoxy-5-nitro-biphenyl-3-carboxylic acid, MS (M+H)=274.

reactant | 3-Iodo-5-nitro-benzoic acid | 34 mmol, 10.0 g | IC=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H4INO4
reactant | EtOH | CCO | C2H6O
reactant | 2-methoxy-phenyl-boronic acid | 5.7 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | Cs2CO3 | 12.5 mL, 12.23 g | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Palladium tetra(triphenylphosphine) | 1.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
solvent | Toluene | 17.5 mL | C1(=CC=CC=C1)C | C7H8
product | 2′-methoxy-5-nitro-biphenyl-3-carboxylic acid | 8.62 g | COC1=C(C=CC=C1)C1=CC(=CC(=C1)[N+](=O)[O-])C(=O)O | C14H11NO5
